US05116862
4-t-Butyl-1-(but-3-ynyloxymethyl)-2,6,7-trioxabicyclo[2.2.2]octane was prepared from 2-(but-3-ynyloxy)acetic acid and 3-t-butyl-3-hydroxymethyloxetane using methodology described in Example I

reactant | 2-(but-3-ynyloxy)acetic acid | C(CC#C)OCC(=O)O | C6H8O3
reactant | 3-t-butyl-3-hydroxymethyloxetane | C(C)(C)(C)C1(COC1)CO | C8H16O2
product | 4-t-Butyl-1-(but-3-ynyloxymethyl)-2,6,7-trioxabicyclo[2.2.2]octane | C(C)(C)(C)C12COC(OC1)(OC2)COCCC#C | C14H22O4
